US05725798
A mixture of 21.4 g (0.1 mol) of 4'-hydroxybiphenyl-4-carboxylic acid, 33.15 g (0.15 mol) of n-decyl bromide, 13.20 g (0.2 mol) of 85% potassium hydroxide, 1.05 g (7 mmol) of sodium iodide, 500 ml of ethanol and 100 ml of distilled water was heated under reflux at 100° C. for 12 hours. After 40 ml of 25% potassium hydroxide was added, the mixture was further heated under reflux for 2 hours. After allowing the reaction system to cool up to room temperature, the reaction mixture in cold water was acidified with 36% hydrochloric acid. The deposited product was separated by filtration and dissolved in acetone with heating, followed by filtration. The resulting filtrate was concentrated to obtain 1.97 g (6 mmol) of 4'-decyloxybiphenyl-4-carboxylic acid.

reactant | 4'-hydroxybiphenyl-4-carboxylic acid | 0.1 mol, 21.4 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H10O3
reactant | n-decyl bromide | 0.15 mol, 33.15 g | C(CCCCCCCCC)Br | C10H21Br
reactant | potassium hydroxide | 0.2 mol, 13.20 g | [OH-].[K+]
reactant | sodium iodide | 7 mmol, 1.05 g | [I-].[Na+]
reactant | potassium hydroxide | 40 ml | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | water | 100 ml | O | H2O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 4'-decyloxybiphenyl-4-carboxylic acid | 6 mmol, 1.97 g | C(CCCCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C23H30O3
